US07524853B2
3-Benzyl-5-methyl-2-(3,4,5-trimethoxyphenyl)-6,7-dihydro-3H,5H-benzo[4,5]thieno[2,3-d]pyrimidin-4,8-dione
3-Benzyl-5-methyl-2-(3,4,5-trimethoxyphenyl)-5,6,7,8-tetrahydro-3H-benzo[4,5]thieno[2,3-d]pyrimidin-4-one (Compound No. 683) (17.7 mmol) dissolved in dry dichloromethane (30 ml) was added quickly to a mixture of PCC (19.2 g, 89.0 mmol, 500 mol-%) in dichloromethane (200 ml). During refluxing PCC was added several times until the reaction was completed. The reaction mixture was filtered through Celite with dichloromethane. The crude product was purified by flash chromatography.

reactant | 3-Benzyl-5-methyl-2-(3,4,5-trimethoxyphenyl)-5,6,7,8-tetrahydro-3H-benzo[4,5]thieno[2,3-d]pyrimidin-4-one | C(C1=CC=CC=C1)N1C(=NC2=C(C1=O)C1=C(S2)CCCC1C)C1=CC(=C(C(=C1)OC)OC)OC | C27H28N2O4S
reactant | PCC | 89.0 mmol, 19.2 g | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 3-Benzyl-5-methyl-2-(3,4,5-trimethoxyphenyl)-6,7-dihydro-3H,5H-benzo[4,5]thieno[2,3-d]pyrimidin-4,8-dione | C(C1=CC=CC=C1)N1C(=NC2=C(C1=O)C1=C(S2)C(CCC1C)=O)C1=CC(=C(C(=C1)OC)OC)OC | C27H26N2O5S
